US05214037
To a solution of 4-acetylthiomethylthio-1,2,3-triazole (6 g : 31.75 mMol.) in tetrahydrofuran (30 ml) is added dropwise at -78° C. a solution of 1M lithium bis(trimethylsilyl)amide in tetrahydrofuran (35 ml : 35 mMol.), and the mixture is stirred at the same temperature for 5 minutes and added methyl trifluoromethanesulfonate (4.0 ml : 35 mMol.). After stirring at the same temperature for 2 hours, the reaction mixture is diluted with 10% hydrochloric acid (26 ml) and water, and extracted with ethyl acetate. The extract is washed with aqueous sodium hydrogen carbonate and brine, dried over sodium sulfate, and concentrated. The residue is purified by silica gel chromatography (n-hexane : ethyl acetate=1:2) to give 4-acetylthiomethylthio-3-methyl-1,2,3-triazole 2.22 g; NMR δ (CDCl3) ppm: 2.32(s, 3H). 4.13(s, 5H). 7.77(s, 1H).IR ν (CHCl3) cm-1 : 1698, 1429, 1355, 1263, 1226, 1205, 1127, 1100, 957. mp. 37°-38° C. Yield: 34%, 4-acetylthiomethylthio-1-methyl-1,2,3- triazole [884 mg; NMR δ (CDC13) ppm: 2.35(s, 3H), 4.11(s, 3H), 4.33(s, 2H), 7.59(s, 1H).IR (CHC13) cm-1 : 1691, 1434, 1354, 1285, 1131, 1106, 1048, 1031, 956.mp. 71°-72° C. Yield: 14%], and 4-acetylthiomethylthio-2-methyl-1,2,3-triazole [175 mg; NMR δ (CDC13) ppm: 2.35 (s, 3H), 4.20(s, 3H), 4.30(s,2H), 7.56(s, 1H).IR (CHCl3) cm-1 : 1691, 1446, 1369, 1130, 1006, 990, 956.Oil. Yield: 3%].

reactant | 4-acetylthiomethylthio-1,2,3-triazole | 31.75 mMol, 6 g | C(C)(=O)SCSC=1N=NNC1 | C5H7N3OS2
reactant | lithium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl trifluoromethanesulfonate | 35 mMol, 4.0 ml | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 26 ml | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 35 mMol, 35 ml | O1CCCC1 | C4H8O
product | 4-acetylthiomethylthio-3-methyl-1,2,3-triazole | 2.22 g | C(C)(=O)SCSC=1N(N=NC1)C | C6H9N3OS2
